Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
Chief Complaint:
hyperkalemia, hyperuricemia, hypercalcemia, ___ on CKD and 
pancytopenia
 
Major Surgical or Invasive Procedure:
Tunnelled RIJ triple lumen central line placement ___ 
 
History of Present Illness:
___ with CML s/p sibling allo D0 ___, complicated by chronic 
GVHD with gut, liver, muscle involvement presenting from ___ 
clinic with hyperkalemia (5.2), hyperuricemia (9.5 from 8.7 on 
last admission), hypercalcemia (10.7 from 8s-9s), ___ on CKD (Cr 
2.9 from 2.2) and pancytopenia. 

Patient was found to have abnormal lab values as above and 
hypovolemia with Hct of 22 on visit to ___ clinic today. PIV was 
placed, 500cc IVF given, and 1 unit pRBC ordered prior to 
admission.

She had recent admission ending ___ for hypovolemia and acute 
kidney injury leading to hyperkalemia and hyperuricemia.

On admission, vital signs T 98.2 HR 105 BP 135/80 RR 18 SaO2 
99%RA Wt 127.7lb. Patient states that she has had poor PO intake 
as of late. Patient states that she has been more fatigued 
recently and has had cough for ___ weeks. She notes intermittent 
sputum production which tends to be greenish in the AM and 
whitish in the ___. She also notes rash on back and abdomen which 
she believes is due to detergent from rehab facility or drug 
reaction. She states that pain in legs and arms has decreased. 
She denies any change in urine frequency or character. 

She denies chest pain, SOB, palpitations, abd pain, new nausea, 
vomiting, diarrhea, change in bowel habits, fevers/chills. She 
states that she feels the same as she did after last admission.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
From discharge summary ___, confirmed with patient  
- ___: Bone marrow biopsy showed myeloproliferative 
disorder, likely chronic myelogenous leukemia. Per patient 
report, began taking interferon three times weekly shortly after 

diagnosis.  
- ___: Started Gleevec 400 mg daily. At some point 
thereafter, her dose was increased to 600 mg daily  
- ___: ___ increased to 400 mg twice daily with 
hydroxyurea and allopurinol  
- ___: Seen at ___, found to be 
in late chronic phase CML. Stem cell transplant was recommended, 

but she did not wish to pursue this course.  
- ___: Gleevec held due to worsening anemia and 
thrombocytosis. Started on Nilotinib  
- ___: Nilotinib held due to QTC prolongation, started on 
Dasatinib  
- ___: First seen at ___. Bone marrow biopsy showed 
accelerated phase CML, began induction chemo with 7+3.  
- ___: Admission for MRD SCT  
- ___: Discharged on day +32. Transplant complicated by 
mucositis with biopsy of the esophagus suggesting upper GI GVHD 
which was treated with steroids.  
- ___ colonoscopy showing lower GI GVHD  
- ___ readmitted with recurrent aGVHD of the liver upper  
and lower GI tract in the setting of reducing immunosuppression  

- ___ Started on ponatinib 45 mg PO due to evidence of 
disease  
- ___ admitted to the hospital for fatigue and diarrhea, 
renal biopsy showed microangiopathic disease, glomerular 
sclerosing and fibrosis of kidney and GI biopsy showed shallow 
crypts that are  
typically seen with GVHD or cellcept toxicity. Her ponatinib was 

discontinued and prendisone and Cellcept doses were decreased.  
- ___ admitted for nausea, diarrhea, poor PO intake and 
weight loss. Had flex sig and EGD with biopsy negative for GVHD. 

Diarrhea resolved, stool cultures negative. ___ resolved w/ IVF. 

CT sinus had inflammation, given course of levofloxacin. Gastric 

emptying study inconclusive. BCR/ABL gene rearrangment elevated 
from previous undetected level to 2.013%, mycophenylate was 
stopped.  
-___ admitted for hypovolemia, acute kidney injury leading 
to hyperkalemia, hyperuricemia, and found to have DVT. ___ and 
electrolyte abnormalities resolved with IVF, patient was started 
on 1 week allopurinol in addition to febuxostat, and treated 
with SQH for ___ months for superficial femoral vein DVT. 
Discharged on lower dose of steroids (10mg prednisone daily).  

PAST MEDICAL/SURGICAL HISTORY:  
From discharge summary ___, confirmed with patient  
- CAD s/p CABG in ___  
- hypertension  
- hyperlipidemia  
- Right ankle surgery in ___  
- Total abdominal hysterectomy in ___  
- Appendectomy at age ___ 
 
Social History:
___
Family History:
Father - died of MI, no other health problems  
Mother - had heart problems, DM  
No family history of cancer or blood disorders.  

 
Physical Exam:
ADMISSION EXAM:
VITALS  T 98.2 HR 105 BP 135/80 RR 18 SaO2 99%RA Wt 127.7lb
General: Well appearing woman lying in bed, friendly and 
interactive in NAD
HEENT: Little hair on head, moon facies, mildly pigmented sclera 
with no icterus or conjunctival injection, oropharynx clear, dry 
mucous membranes
Neck: No cervical LAD  
CV: Hyperdynamic precordium, early systolic murmur heard best at 
LUSB, RRR, no r/g  
Lungs: Clear to auscultation bilaterally
Abdomen: Soft, nontender, nondistended, normal bowel sounds
Ext: ___ edema in LLE, no edema in RLE, warm and well perfused  

Neuro: CN2-12 intact, motor and sensory exam grossly intact
Skin: Blanching erythematous maculopapular rash present on back 
of head, back of legs, lower abdomen, and especially on back. 
Pethechiae present on bilateral ___. Diffuse ecchymoses on upper 
and lower extremities bilaterally as well as abdomen.  

DISCHARGE EXAM:
Deceased 
 
Pertinent Results:
ADMISSION LABS:

___ 11:40AM BLOOD WBC-2.5*# RBC-2.35* Hgb-7.5* Hct-22.8* 
MCV-97 MCH-32.1* MCHC-33.1 RDW-21.2* Plt Ct-61*#
___ 11:40AM BLOOD Neuts-68 Bands-5 Lymphs-11* Monos-4 Eos-4 
Baso-0 Atyps-1* Metas-2* Myelos-1* NRBC-1* Other-4*
___ 11:40AM BLOOD ___ PTT-68.2* ___
___ 11:40AM BLOOD UreaN-45* Creat-2.9* Na-135 K-5.2* Cl-108 
HCO3-19* AnGap-13
___ 11:40AM BLOOD Glucose-126*
___ 11:40AM BLOOD ALT-13 AST-16 LD(LDH)-287* AlkPhos-285* 
TotBili-0.4
___ 11:40AM BLOOD TotProt-4.9* Albumin-3.1* Globuln-1.8* 
Calcium-10.7* Phos-4.2 Mg-1.8 UricAcd-9.5*
___ 04:31AM URINE Color-Yellow Appear-Clear Sp ___
___ 04:31AM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 04:31AM URINE RBC-4* WBC-35* Bacteri-FEW Yeast-NONE 
Epi-1 TransE-<1
___ 04:31AM URINE Hours-RANDOM UreaN-454 Creat-71 Na-80 
K-28 Cl-65
___ 04:31AM URINE Osmolal-406
___ 06:05AM BLOOD PTH-6*
___ 06:05AM BLOOD Ret Aut-3.2

DISCHARGE LABS:

___ 12:12AM BLOOD WBC-1.3* RBC-2.50* Hgb-7.7* Hct-22.8* 
MCV-91 MCH-30.8 MCHC-33.8 RDW-16.8* Plt Ct-15*
___ 12:12AM BLOOD Neuts-0* Bands-0 Lymphs-46* Monos-2 Eos-0 
Baso-0 ___ Myelos-0 Blasts-52*
___ 12:12AM BLOOD Glucose-105* UreaN-64* Creat-2.5* Na-143 
K-5.0 Cl-109* HCO3-22 AnGap-17
___ 12:12AM BLOOD Calcium-8.4 Phos-5.7*# Mg-2.4

PERTINENT LABS:

___ 06:50AM BLOOD Vanco-36.5*
___ 05:39AM BLOOD Vanco-28.9*
___ 12:00AM BLOOD 25VitD-46
___ 12:22AM BLOOD Albumin-2.6* Calcium-10.6* Phos-3.6 
Mg-2.1 UricAcd-10.2*
___ 02:00PM BLOOD UricAcd-1.5*
___ 02:00PM BLOOD UricAcd-1.8*
___ 12:00AM BLOOD Albumin-2.5* Calcium-10.2 Phos-3.7 Mg-2.0 
UricAcd-1.1*
___ 12:00AM BLOOD Albumin-2.6* Calcium-10.5* Phos-4.2 
Mg-2.6 UricAcd-2.0*
___ 12:00AM BLOOD Albumin-2.5* Calcium-10.9* Phos-4.1 
Mg-2.1 UricAcd-3.4
___ 02:54PM BLOOD Calcium-10.7* Phos-3.9 Mg-1.9 UricAcd-4.3
___ 12:00AM BLOOD Albumin-2.6* Calcium-10.8* Phos-4.0 
Mg-2.3 UricAcd-6.5*
___ 12:10AM BLOOD Calcium-9.7 Phos-3.7 Mg-2.0 UricAcd-7.8*
___ 12:30AM BLOOD Albumin-2.5* Calcium-9.3 Phos-3.6 Mg-2.5 
UricAcd-8.6*
___ 01:00AM BLOOD Calcium-8.8 Phos-3.4 Mg-2.2 UricAcd-9.6*
___ 12:00AM BLOOD ___
___ 06:10AM BLOOD Ret Aut-1.8
___ 12:00AM BLOOD ___
___ 12:10AM BLOOD ___ PTT-29.8 ___
___ 12:00AM BLOOD Neuts-70 Bands-5 Lymphs-8* Monos-4 Eos-3 
Baso-0 ___ Metas-2* Myelos-1* Blasts-7*
___ 12:22AM BLOOD Neuts-65 Bands-6* Lymphs-12* Monos-2 
Eos-3 Baso-0 ___ Metas-3* Myelos-0 Blasts-9*
___ 12:00AM BLOOD Neuts-69 Bands-1 Lymphs-17* Monos-0 Eos-0 
Baso-0 ___ Metas-2* Myelos-0 Blasts-11*
___ 12:00AM BLOOD Neuts-53 Bands-0 ___ Monos-1* Eos-1 
Baso-0 ___ Metas-1* Myelos-0 Blasts-15*
___ 12:00AM BLOOD Neuts-40* Bands-1 ___ Monos-0 Eos-0 
Baso-0 ___ Myelos-1* Blasts-28*
___ 12:27AM BLOOD Neuts-38* Bands-1 ___ Monos-2 Eos-3 
Baso-0 Atyps-1* ___ Myelos-0 Blasts-22*
___ 12:00AM BLOOD Neuts-17* Bands-0 ___ Monos-1* 
Eos-2 Baso-0 ___ Myelos-0 Blasts-53*
___ 12:30AM BLOOD Neuts-5* Bands-0 ___ Monos-0 Eos-5* 
Baso-0 Atyps-1* ___ Myelos-0 Blasts-52*
___ 01:00AM BLOOD Neuts-2* Bands-0 ___ Monos-2 Eos-9* 
Baso-0 ___ Myelos-0 Blasts-65*
___ 12:09AM BLOOD Neuts-5* Bands-0 ___ Monos-0 Eos-2 
Baso-0 ___ Myelos-0 Blasts-64*
___ 06:05AM BLOOD WBC-1.8* RBC-2.41* Hgb-7.6* Hct-22.7* 
MCV-94 MCH-31.7 MCHC-33.6 RDW-21.5* Plt Ct-52*
___ 06:10AM BLOOD WBC-1.7* RBC-2.32* Hgb-7.0* Hct-22.3* 
MCV-96 MCH-30.2 MCHC-31.5 RDW-21.4* Plt Ct-40*
___ 12:00AM BLOOD WBC-1.6* RBC-2.16* Hgb-6.7* Hct-20.6* 
MCV-96 MCH-31.0 MCHC-32.4 RDW-21.3* Plt Ct-36*
___ 12:22AM BLOOD WBC-2.4* RBC-2.56* Hgb-7.9* Hct-23.8* 
MCV-93 MCH-30.7 MCHC-32.9 RDW-20.0* Plt Ct-37*
___ 12:00AM BLOOD WBC-1.7* RBC-2.23* Hgb-7.0* Hct-21.0* 
MCV-94 MCH-31.3 MCHC-33.2 RDW-20.4* Plt Ct-31*
___ 12:00AM BLOOD WBC-1.9* RBC-2.49* Hgb-7.8* Hct-23.4* 
MCV-94 MCH-31.3 MCHC-33.3 RDW-19.3* Plt Ct-28*
___ 12:00AM BLOOD WBC-1.6* RBC-2.34* Hgb-7.2* Hct-22.0* 
MCV-94 MCH-30.9 MCHC-32.9 RDW-19.2* Plt Ct-24*
___ 12:27AM BLOOD WBC-1.9* RBC-2.32* Hgb-7.2* Hct-21.6* 
MCV-93 MCH-31.2 MCHC-33.6 RDW-19.1* Plt Ct-20*
___ 12:00AM BLOOD WBC-1.2* RBC-2.03* Hgb-6.4* Hct-18.8* 
MCV-93 MCH-31.5 MCHC-34.0 RDW-18.9* Plt Ct-17*
___ 12:10AM BLOOD WBC-1.8* RBC-2.34* Hgb-7.2* Hct-21.4* 
MCV-91 MCH-30.7 MCHC-33.7 RDW-18.2* Plt Ct-15*
___ 12:30AM BLOOD WBC-1.0* RBC-2.14* Hgb-6.6* Hct-19.3* 
MCV-90 MCH-30.7 MCHC-34.0 RDW-18.1* Plt Ct-11*
___ 01:00AM BLOOD WBC-1.9*# RBC-2.52* Hgb-7.7* Hct-23.2* 
MCV-92 MCH-30.7 MCHC-33.3 RDW-17.7* Plt Ct-12*
___ 12:09AM BLOOD WBC-1.6* RBC-2.32* Hgb-7.0* Hct-20.9* 
MCV-90 MCH-30.0 MCHC-33.3 RDW-17.6* Plt Ct-9*

MICRO:
___ CMV VL Not detected
___ RRV panel and cx negative
___ Ucx <10K org
___ Ucx 
  KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      CITROBACTER FREUNDII COMPLEX.    >100,000 ORGANISMS/ML.. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |          CITROBACTER FREUNDII 
COMPLEX
                             |          |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S      <=1 S
CEFTRIAXONE-----------   <=1 S      <=1 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
NITROFURANTOIN--------    32 S     <=16 S
PIPERACILLIN/TAZO-----   <=4 S      <=4 S
TOBRAMYCIN------------   <=1 S      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S      <=1 S

___ Bcx x23 no growth

___ CMV VL not detectable

IMAGING:
___ CT CHEST W/O CON
IMPRESSION: 
1.  New small foci of ground-glass opacities in the upper lobes, 
larger on the 
left, are worrisome for infection. 
2.  Stable splenomegaly. 
3.  Dense coronary calcifications. 
4.  New small left effusion. 
5.  Stable enlargement of the main pulmonary arteries suggesting 
pulmonary 
hypertension. 

___ LLE DUPLEX U/S
IMPRESSION: 
  
Chronic, non-occlusive thrombus of the left proximal superficial 
femoral vein, 
unchanged since ___.   

___ CXR (PORT)
REASON FOR EXAMINATION:  Evaluation of the patient with CML 
transformation into AML and blast crisis with persistent cough. 
Portable AP radiograph of the chest was reviewed in comparison 
to ___. 
The right central venous line tip is at the cavoatrial 
junction/proximal right atrium.  Heart size and mediastinum are 
stable.  There is new left 
retrocardiac opacity, not seen on the prior study, concerning 
for left lower lobe pneumonia associated with small amount of 
pleural effusion.  No pneumothorax is seen. 

___ TTE
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
to moderate regional left ventricular systolic dysfunction with 
near-akinesis of the septum, and hypokinesis of the basal-mid 
anterior wall. No masses or thrombi are seen in the left 
ventricle. There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. There is an anterior space which most 
likely represents a prominent fat pad. 

IMPRESSION: Regional left ventricular systolic dysfunction 
consistent with LAD ischemia/infarction. Mild mitral 
regurgitation. 

Compared with the prior study (images reviewed) of ___ and 
___, the function of the septum and anterior wall are 
similar (septal function was described as mildly hypokinetic on 
the most recent study but it was severely hypokinetic then 
also). The function of the mid to distal inferior wall has 
improved. Mild mitral regurgitation is seen.  

PATHOLOGY:
___ IMMUNOPHENOTYPING
Increased number of blasts. In a context of patient's known CML, 
this is concerning for acute blast crisis.  Correlation with 
clinical findings and morphology (see separate report 
___ is recommended.  Flow cytometry immunophenotyping 
may not detect all abnormal populations due to topography, 
sampling or artifacts of sample preparation

___ Bone marrow bx
 Chronic Myelogeneous leukemia - Blast phase (CML-BP), see note.
Note: This represents acute myelegenous transformation of the 
patient's
previously diagnosed CML; ie., CML-BP. CD34 and CD117 are 
increased and
highlight blasts occupying estimated 70-80% of the overall 
cellularity.
 CD20 highlights rare B cells.  CD3 stains interstitial T 
lymphocytes.
CD42 is present in the megakaryocytes, which do not appear 
increased.
TdT is negative.  MP0 is not expressed in blasts.  Glycophorin
highlights erythroid precursors, but is negative in the blasts.

___ Skin bx
PATHOLOGIC DIAGNOSIS:

Skin, left mid back; punch biopsy:

 - Mild spongiosis with dyskeratosis, patchy interface 
inflammation and
focal intra-epidermal eosinophils,  with superficial 
perivascular
mononuclear cell infiltrate and dermal eosinophils (see 
comment).
 - No fungal organisms identified on a PAS stain.
 - Multiple tissue levels examined.

Comment:  The histologic differential diagnosis includes both a
hypersensitivity reaction and graft versus host disease. The 
presence
of eosinophils is compatible with the clinical suspicion of a 
drug
eruption, although they do not exclude graft versus host 
disease.
Clinical correlation is recommended.

 

 

 
Brief Hospital Course:
___ with CML s/p sibling allo D0 ___, complicated by chronic 
GVHD with gut, liver, muscle involvement presenting from ___ 
clinic with hyperkalemia, hyperuricemia, hypercalcemia, ___ on 
CKD and pancytopenia, now with conversion to AML.
 
#CML/AML: BCR/ABL trended up from 0 to 2 to 5 to 104 to 162. 
Presented with hyperuricemia and pancytopenia likely due to 
conversion to AML and rapid cell turn over. No evidence of 
bleeding. Hemolysis unlikely with normal coag studies and Tbili. 
 Retic count 1.8 with retic index 0.88% showed poor red cell 
production. CMV/EBV/HHV6 negative. BM bx shows conversion to AML 
with as much as 65% blasts on smear with absolute blast count as 
high as 1200 and 0% neutrophils. Treated with 12 days of 
nilotinib with no improvement. Given continued decline and poor 
prognosis, transitioned to comfort measures only after which she 
expired. 

#Cough/HCAP: Patient had intermittently productive cough for ___ 
weeks with negative workup on last admission including CXR, CT 
Chest, V/Q scan, rapid resp viral panel. Clear lung exam, 
negative CXR at rehab prior to admission. RRV panel and cx, 
beta-glucan, galactomannan negative. BNP >40K so volume overload 
potentially played a partial role especially given LVEF 40-45% 
on TTE. PE unlikely as patient not hypoxic, no evidence of right 
heart strain on EKG, no evidence of infarct on CT Chest; 
regardless, anticoagulation held in setting of thrombocytopenia 
and no hemodynamic compromise. CT showed ?infectious process, in 
the setting of worsening cough/resp status portable CXR showed 
likely LLL PNA. On ___ patient met ___ SIRS criteria 
(tachycardic, tachypneic, low WBC) so cx drawn and started on 
empiric vanc/meropenem. Received benzonatate, codeine, 
guaifenesin-dextromethorphan as well as levalbuterol/ipratropium 
nebs prn for symptomatic relief. With continued worsening 
respiratory status patient started on morphine for SOB O2 
supplementation prn. Given prognosis, she was transitioned to 
comfort measures only with withdrawal of abx, scopalamine patch, 
and morphine gtt, on which she expired. 

#Hypercalcemia: Baseline high 8s-9s, on admission 10.7. Unclear 
etiology, given elevated alk phos in the setting of CKD could 
have increased bony release of calcium though increased bone 
turnover would likely cause a higher phosphate level. PTH 6 
which rules out hyperparathyroidism and makes hypercalcemia in 
the setting of worsening CML more likely especially with Vit D 
wnl but PTHrP elevated. Received IVF, furosemide, ___ dose 
pamidronate ___ and calcitonin ___ while calcium 
carbonate/Vit D held and calcium downtrended to 8.4.

#UTI: Found to have citrobacter/klebsiella UTI on culture taken 
after patient began to appear septic with ___ SIRS signs. 
Infection was covered by meropenem rx'ed for putative PNA. Foley 
catheter was left in place for comfort and abx discontinued when 
patient transitioned to comfort measures only. 

#CHF: Patient has known CHF likely of ischemic nature given CAD, 
found to have persistent LVEF 40-45% on TTE ___. Increased 
volume with IVF for hypercalcemia tx led to increasing dyspnea 
treated with oxygen supplementation, which improved after 
diuresis and PNA tx as above. At this point, IVF held as calcium 
dropped and for comfort reasons. 
 
#DVT in LLE: Left superficial femoral vein DVT found on last 
admission, discharged on SQ heparin for tx. Previously presented 
with acute worsening of LLE edema but now reduced compared to 
prior admission. LLE U/S shows unchanged partially occlusive 
clot of proximal superficial femoral vein. Anticoagulation held 
given thrombocytopenia, IVC filter placement held given 
stability of clot and goals of care. 

#Hyperuricemia: Uric acid on presentation 9.5. Pt treated on 
last admission with rasburicase and started on allopurinol and 
febuxostat. Discharged with uric acid 8.7. Febuxostat held on 
this admission due to drug rash. Elevated uric acid possibly due 
to worsening renal function in the setting of hypovolemia but 
given rising BCR-ABL and known CML->AML progression likely due 
to rapid cell turnover. Elevated uric acid unlikely to be 
contributing to poor kidney function given no urate crystals on 
urine sediment. Treated with rasburicase x1, uric acid dropped 
to but rose to 9.6 over several days. Allopurinol discontinued 
after patient transitioned to comfort measures only. 

#CKD: Baseline Cr 1.5-2.0 due to thrombotic microangiopathic 
injury with severe interstitial fibrosis and tubular atrophy 
possibly related to TKI shown on renal biopsy ___. Cr 2.2 on 
last discharge, presented with Cr 2.9. Most likely prerenal in 
the setting of poor po intake and hypovolemia; elevated uric 
acid unlikely to be causing renal damage after improvement with 
fluids and no urate crystals. Cr worsened to 2.5 after several 
doses of IV lasix. Urine output decreased ___. Further 
diuresis held, no further IVF or intervention to improve kidney 
function after transition to comfort care only. 

#GVHD: Known skin, gut, liver, muscle involvement. Aldolase 
mildly elevated consistent with known muscle disease but 
improved from ___. Rash likely drug related over acute GVHD 
per derm bx. Continued on prednisone 10mg then transitioned to 
4mg IV solumedrol BID given inability to tolerate PO prior to 
discontinuation of steroids given goals of care. 

#CAD s/p CABG: History of ?NSTEMI in past, ___ TTE with 
preserved EF 55%. ASA held due to thrombocytopenia. 

#Nutrition: Patient's weight has fallen from 141 to 127 lbs 
since ___, likely ___ poor PO intake. Copper level wnl, 
B6 low. Supplemented with ensure while taking PO prior to 
transition to comfort care.  

#Hypertension: 
-Stable on metoprolol and amlodipine until transition to comfort 
care at which point both rx dc'ed. 

Patient sadly died overnight ___ with her family 
present after comfort care for about 3 days. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Amlodipine 5 mg PO DAILY 
3. Atovaquone Suspension 1500 mg PO DAILY 
4. Benzonatate 100 mg PO TID:PRN Cough 
5. Calcium Carbonate 500 mg PO BID 
6. Fluconazole 200 mg PO Q24H 
7. Heparin 12,500 UNIT SC BID 
8. Metoprolol Succinate XL 250 mg PO DAILY 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
11. Magnesium Oxide 400 mg PO BID 
12. Guaifenesin ___ mL PO Q6H:PRN cough 
13. albuterol sulfate 90 mcg/actuation Inhalation 1 puff TID prn 
SOB, wheezing 
14. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
15. PredniSONE 10 mg PO DAILY 
16. Allopurinol ___ mg PO DAILY 
17. Febuxostat 40 mg PO DAILY 
18. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN cough 
19. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
Deceased 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Primary: Chronic myelogenous leukemia conversion to acute 
myelogenous leukemia with blast crisis, health-care associated 
pneumonia

Secondary: Chronic graft-versus-host disease, acute on chronic 
kidney injury, deep venous thrombosis of left lower extremity, 
klebsiella and citrobacter urinary tract infection
 
Discharge Condition:
Deceased 
 
Discharge Instructions:
Deceased 
 
Followup Instructions:
___